US08748010B2
a) 1,4-Bis(2-methoxycarbonylphenyl)naphthalene
1.55 g (0.1 mmol) of Pd(PPh3)4 are added to a vigorously stirred, degassed suspension of 21.6 g (7.1 mmol) of methyl 2-bromobenzoate, 10.1 g (28 mmol) of 1,4-naphthalenediboronic acid and 18.9 g (6.6 mmol) of trispotassium phosphate in a mixture of 350 ml of water and 350 ml of THF, and the mixture is refluxed for 60 h. After cooling, the organic phase is separated off, washed three times with 200 ml of water and once with 200 ml of saturated sodium chloride solution and subsequently dried over magnesium sulfate. The organic phase is evaporated to dryness under reduced pressure in a rotary evaporator. The grey residue obtained in this way is recrystallised from dioxane. The deposited crystals are filtered off with suction, washed with 50 ml of ethanol and subsequently dried under reduced pressure. Yield: 13 g, 82% of theory.

reactant | methyl 2-bromobenzoate | 7.1 mmol, 21.6 g | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
reactant | 1,4-naphthalenediboronic acid | 28 mmol, 10.1 g | C1(=CC=C(C2=CC=CC=C12)B(O)O)B(O)O | C10H10B2O4
reactant | phosphate | 6.6 mmol, 18.9 g | P(=O)([O-])([O-])[O-]
solvent | water | 350 ml | O | H2O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.1 mmol, 1.55 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,4-Bis(2-methoxycarbonylphenyl)naphthalene | COC(=O)C1=C(C=CC=C1)C1=CC=C(C2=CC=CC=C12)C1=C(C=CC=C1)C(=O)OC | C26H20O4
